US05028607
8-Carbamoyl-4-hydroxy-3-hydroxyethyl-2-methylimidazo[1,5-a]pyrimidine
3 g of 4-amino-5-carbamoylimidazole hydrochloride 1.51 g of sodium acetate, 1.69 g of ethanol, 7 g of 3-acetyltetrahydro-3-furanone and 45 ml of toluene are introduced successively into a 3-necked flask. The mixture is heated to reflux for 90 h. After cooling, the precipitate formed is taken up with boiling ethanol. The mixture is filtered and the residue is taken up in boiling water, the mixture is filtered and the residue is washed with ethanol and then dried.

reactant | 4-amino-5-carbamoylimidazole hydrochloride | 3 g | Cl.NC=1N=CNC1C(N)=O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 1.69 g | C(C)O | C2H6O
product | 8-Carbamoyl-4-hydroxy-3-hydroxyethyl-2-methylimidazo[1,5-a]pyrimidine | C(N)(=O)C=1N=CN2C1N=C(C(=C2O)CCO)C | C10H12N4O3
